US07601711B2
5-(4-Cyclopentyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid benzyl-methyl-amide
The title compound was synthesized in analogy to example 1, from 5-(4-cyclopentyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid 1:1 hydrochloride, O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (commercially available), methylbenzylamine (commercially available) and N,N-diisopropylethylamine in N,N-dimethylformamide to give the desired product after purification by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile/water/formic acid.

reactant | 5-(4-cyclopentyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid | C1(CCCC1)N1CCN(CC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)O | C19H23N3O3
reactant | hydrochloride | Cl | ClH
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | methylbenzylamine | CNCC1=CC=CC=C1 | C8H11N
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(4-Cyclopentyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid benzyl-methyl-amide | C(C1=CC=CC=C1)N(C(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CCN(CC1)C1CCCC1)C | C27H32N4O2
